US07326791B2
rac.-N-[(5-chloro-1H-benzimidazol-2-yl)thiophen-3-ylmethyl]-3-methyl-4-(pyrrolidin-1-ylcarbonyl)benzamide
Prepared analogously to Example 1g from 3-methyl-4-(pyrrolidin-1-ylcarbonyl)benzoic acid, TBTU, diisopropylethylamine, and rac.-(5-chloro-1H-benzimidazol-2-yl)thiophen-3-ylmethylamine in tetrahydrofuran. Yield: %; Rf value: 0.39 (silica gel: dichloromethane/ethanol=9:1); C25H23ClN4O2S (479.01); mass spectrum: (M+H)+=479/481 (chlorine isotope).

reactant | 3-methyl-4-(pyrrolidin-1-ylcarbonyl)benzoic acid | CC=1C=C(C(=O)O)C=CC1C(=O)N1CCCC1 | C13H15NO3
reactant | TBTU | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.[B-](F)(F)(F)F
reactant | diisopropylethylamine | C(C)(C)N(CC)C(C)C | C8H19N
reactant | rac.-(5-chloro-1H-benzimidazol-2-yl)thiophen-3-ylmethylamine | ClC1=CC2=C(NC(=N2)NCC2=CSC=C2)C=C1 | C12H10ClN3S
reactant | chlorine | ClCl | Cl2
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
solvent | dichloromethane ethanol | ClCCl.C(C)O
product | rac.-N-[(5-chloro-1H-benzimidazol-2-yl)thiophen-3-ylmethyl]-3-methyl-4-(pyrrolidin-1-ylcarbonyl)benzamide | ClC1=CC2=C(NC(=N2)C(NC(C2=CC(=C(C=C2)C(=O)N2CCCC2)C)=O)C2=CSC=C2)C=C1 | C25H23ClN4O2S
